US04716241
1.0 g of 2,2,5,5-tetramethylcyclopentylidenemethyl methyl sulfoxide was dissolved in 10 ml of methylene chloride, and 470 mg of acetyl chloride was added dropwise. The mixture was subjected to reaction at room temperature for 12 hours, and then 50 ml of 5% sodium hydrogen carbonate was added thereto. The mixture was extracted twice with 50 ml of chloroform, and the organic layers were dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, whereby 960 mg of 2,2,5,5-tetramethylcyclopentylidenemethyl chloromethyl sulfide was obtained.

reactant | 2,2,5,5-tetramethylcyclopentylidenemethyl methyl sulfoxide | 1.0 g | CS(=O)C=C1C(CCC1(C)C)(C)C | C11H20OS
reactant | acetyl chloride | 470 mg | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2,2,5,5-tetramethylcyclopentylidenemethyl chloromethyl sulfide | 960 mg | ClCSC=C1C(CCC1(C)C)(C)C | C11H19ClS
